US08278335B2
Step 4. Methyl 6-chloro-2-(chloromethyl)pyridine-3-carboxylate
Methyl 2-(chloromethyl)pyridine-3-carboxylate 1-oxide (17.85 g, 89 mmol) was stirred in refluxing POCl3 (80 mL, 858 mmol) for 3 hours. Room temperature was attained and the reaction mixture poured into ice-water. The resulting beige precipitate was collected by filtration and purified by flash chromatography (silica, 2-20% ethyl acetate/hexanes) to afford the title compound as a white solid. 1H NMR (CDCl3, 600 MHz) δ 8.22 (d, 1H), 7.37 (d, 1H), 5.03 (s, 2H), 3.95 (s, 3H).

reactant | Methyl 2-(chloromethyl)pyridine-3-carboxylate 1-oxide | 89 mmol, 17.85 g | ClCC1=[N+](C=CC=C1C(=O)OC)[O-] | C8H8ClNO3
reactant | POCl3 | 858 mmol, 80 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Methyl 6-chloro-2-(chloromethyl)pyridine-3-carboxylate | ClC1=CC=C(C(=N1)CCl)C(=O)OC | C8H7Cl2NO2
